US07238689B2
16.7 ml of sodium methoxide (a 28% methanol solution, 86.4 mmoles) was added, at room temperature, to a solution of 21.5 g (82.2 mmoles) of 5-bromo-4-chloro-6-trifluoromethylpyrimidine dissolved in 100 ml of methanol. The mixture was stirred to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was subjected to vacuum distillation to remove the solvent contained therein. The residue was poured into water, followed by extraction with chloroform. The resulting organic layer was washed with water and an aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was washed with n-hexane to obtain 19.2 g (yield: 91.0%) of 5-bromo-4-methoxy-6-trifluoromethylpyrimidine.

reactant | sodium methoxide | 16.7 ml | C[O-].[Na+]
reactant | 5-bromo-4-chloro-6-trifluoromethylpyrimidine | 82.2 mmoles, 21.5 g | BrC=1C(=NC=NC1C(F)(F)F)Cl | C5HBrClF3N2
solvent | methanol | 100 ml | CO | CH4O
product | 5-bromo-4-methoxy-6-trifluoromethylpyrimidine | 19.2 g, yield: 91.0% | BrC=1C(=NC=NC1C(F)(F)F)OC | C6H4BrF3N2O
